US07723329B2
A solution of toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-propyl ester (1.02 g, 1.89 mmol) in 2.0 M dimethylamine in THF (20 mL, 40 mmol) was stirred for 16 hours at 70° C. in a sealed tube. After cooling to ambient temperature, the reaction mixture was concentrated and partitioned in chloroform and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 0.5% ammonium hydroxide/5.0% methanol in chloroform. Dimethyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine was obtained as a light yellow solid (0.453 g, 58.5%). Methanol and ethereal hydrochloride were then added to this compound. The resulting solution was concentrated and dried for 14 hours at 84° C. in vacuo. Dimethyl-{3-[3-(naphthalene -1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine hydrochloride as a very light yellow solid (0.455 g) was obtained: MP: 264-5° C.; Mass Spectrum (−EI, [M−H]−) m/z 408.

reactant | toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-propyl ester | 1.89 mmol, 1.02 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCCOS(=O)(=O)C1=CC=C(C=C1)C | C27H24N2O6S2
reactant | THF | 40 mmol, 20 mL | C1CCOC1 | C4H8O
reactant | dimethylamine | 2.0 M | CNC | C2H7N
product | Dimethyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine | CN(CCCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C | C22H23N3O3S
